US08080563B2
Lithium hydroxide (2.0 mL, 1M, 2.0 mmol) was added to a solution of ethyl 6-(4-(3,5-dichloropyridin-4-ylamino)-7-methoxy-2-oxo-1,2-dihydroquinolin-8-yloxy)hexanoate (100 mg, 0.20 mmol), MeOH (2 mL), and THF (8 mL). The mixture was stirred for 24 h, quenched with 1N HCl (30 mL), and extracted with EtOAc (40 mL×2). The organic extracts were dried, filtered, and concentrated to give 6-(4-(3,5-dichloropyridin-4-ylamino)-7-methoxy-2-oxo-1,2-dihydroquinolin-8-yloxy)hexanoic acid: 1H NMR (400 MHz, DMSO-d6): δ 10.10 (s, 1H), 8.88 (s, 1H), 8.77 (s, 2H), 7.89 (d, 1H), 7.06 (d, 1H), 4.80 (s, 1H), 3.95 (t, 2H), 3.90 (s, 3H), 2.22 (t, 2H), 1.76 (m, 2H), 1.55 (m, 2H), 1.39 (m, 2H); MS (ESI): 465.8.

reactant | Lithium hydroxide | 2.0 mmol, 1M, 2.0 mL | [OH-].[Li+]
reactant | ethyl 6-(4-(3,5-dichloropyridin-4-ylamino)-7-methoxy-2-oxo-1,2-dihydroquinolin-8-yloxy)hexanoate | 0.20 mmol, 100 mg | ClC=1C=NC=C(C1NC1=CC(NC2=C(C(=CC=C12)OC)OCCCCCC(=O)OCC)=O)Cl | C23H25Cl2N3O5
reactant | MeOH | 2 mL | CO | CH4O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 6-(4-(3,5-dichloropyridin-4-ylamino)-7-methoxy-2-oxo-1,2-dihydroquinolin-8-yloxy)hexanoic acid | ClC=1C=NC=C(C1NC1=CC(NC2=C(C(=CC=C12)OC)OCCCCCC(=O)O)=O)Cl | C21H21Cl2N3O5
